US05420275
3,4-Diethoxycarbonyl-6-(4-methoxyphenyl)-5-nitro-2(1H)pyridone
In 8 ml of acetic anhydride was suspended 1.2 g of 3,4-diethoxycarbonyl-6-(4-methoxyphenyl)-2(1H)pyridone. After the mixture was cooled to -30° C. 0 36 ml of fuming nitric acid was added dropwise, followed by stirring for 45 minutes. After water was added, stirring was continued for further 1 hour. The viscous product was collected by filtration, crystallized with diethyl ether and washed.

reactant | 3,4-diethoxycarbonyl-6-(4-methoxyphenyl)-2(1H)pyridone | 1.2 g | C(C)OC(=O)C=1C(NC(=CC1C(=O)OCC)C1=CC=C(C=C1)OC)=O | C18H19NO6
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | acetic anhydride | 8 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3,4-Diethoxycarbonyl-6-(4-methoxyphenyl)-5-nitro-2(1H)pyridone | C(C)OC(=O)C=1C(NC(=C(C1C(=O)OCC)[N+](=O)[O-])C1=CC=C(C=C1)OC)=O | C18H18N2O8
